US05990160
5 mg of puberulonic acid are dissolved in 300 μl of water and treated at 105° for 15 hours under nitrogen, using a Pico-tag apparatus (Waters-Millipore). The reaction solution is freeze dried, obtaining about 3 mg of puberulic acid.

reactant | puberulonic acid | 5 mg | C1=C2C(=C(C(=C(C1=O)O)O)O)C(=O)OC2=O | C9H4O7
solvent | water | 300 μl | O | H2O
product | puberulic acid | about 3 mg | C1=C(C=C(C(=C(C1=O)O)O)O)C(=O)O | C8H6O6
